US04064270
22.8 g (0.21 mol) of chloroformic acid ethyl ester were added dropwise at -15° C to a solution of 41.8 g (0.2 mol) of N-(carbobenzoxy)-glycine and 21.3 g (0.21 mol) of N-methylmorpholine in 250 ml of absolute tetrahydrofuran. The mixture was stirred for 10 minutes at -10° C and was then filtered. A solution of 33.7 g (0.19 mol) of N'-(4-aminophenyl)-N,N-dimethylacetamidine in 100 ml of absolute tetrahydrofuran was added dropwise to the filtrate at -10° C. The mixture was then stirred for 30 minutes at -10° C, 1 hour at 0° C and 2 hours at room temperature. Thereafter, the mixture was concentrated on a rotary evaporator, suspended in sodium hydroxide solution and repeatedly extracted with chloroform. The chloroform phase was dried with Na2SO4 and concentrated. The residue was recrystallized from benzene-ligroin. 39.2 g of N'-[4-(carbobenzoxyglycylamino)-phenyl]-N,N-dimethylacetamidine of melting point 133° C were thus obtained and were slowly introduced into 800 ml of HBr/glacial acetic acid, with cooling. The mixture was stirred for 2 hours at room temperature and was then stirred into 2 liters of dry ether. A crystalline precipitate formed and this was filtered off, washed with ether and then dissolved in water. The aqueous solution was rendered alkaline, with cooling, and was repeatedly extracted with chloroform. The organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was recrystallized from toluene to afford 22.9 g (51% of theory) of N,N-dimethyl-N'-(4-glycylaminophenyl)acetamidine, melting point 142°-145° C.

reactant | chloroformic acid ethyl ester | 0.21 mol, 22.8 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | N-(carbobenzoxy)-glycine | 0.2 mol, 41.8 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | N-methylmorpholine | 0.21 mol, 21.3 g | CN1CCOCC1 | C5H11NO
reactant | N'-(4-aminophenyl)-N,N-dimethylacetamidine | 0.19 mol, 33.7 g | NC1=CC=C(C=C1)N=C(C)N(C)C | C10H15N3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N'-[4-(carbobenzoxyglycylamino)-phenyl]-N,N-dimethylacetamidine | 39.2 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)NC1=CC=C(C=C1)N=C(C)N(C)C | C20H24N4O3
